US04219648
α-(tert-Butoxycarbonyl)amino(1,3-dihydrobenzo[c]thien-4-yl)acetic acid (0.05 m) is added to chloroform and the mixture cooled to about 0° C. Over a period of about 2.5 hours, 0.12 moles of m-chloroperbenzoic acid dissolved in chloroform is added to the mixture maintained at 0° C. When the addition of the m-chloroperbenzoic acid is complete, the temperature of the mixture is raised to about 20° to 25° C. from about 0° C. and stirred for about 18 hours, chilled to 0° C. to precipitate the m-chlorobenzoic acid which is filtered from the solution. Removal of a portion of the chloroform results in the precipitation of Amino(1,3-dihydrobenzo[c]thien-4-yl)acetic acid, 2-oxide

reactant | α-(tert-Butoxycarbonyl)amino(1,3-dihydrobenzo[c]thien-4-yl)acetic acid | C(C)(C)(C)OC(=O)C(C(=O)O)(C1=CC=CC=2CSCC21)N | C15H19NO4S
reactant | m-chloroperbenzoic acid | 0.12 moles | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Amino(1,3-dihydrobenzo[c]thien-4-yl)acetic acid | NC(C(=O)O)C1=CC=CC=2CSCC21 | C10H11NO2S
